US06451839B1
Part C. Preparation of 2-ethyl-1,5,6,7-tetrahydro-1-(2-phenyl-phenylmethyl)-4H-indol-4-one
2-Phenyl-phenylmethyl amine (3 g, 0.0164 mol) and an equivalent amount of 2-(2-oxobutyl)-1,3-Cyclohexyldione were dissolved in 30 mL of toluene and heated at reflux temperature with a water separator. After several hours, solvent was stripped off and the residue subjected to flash chromatography on silica eluting with 3:1 hexane/ethyl acetate to afford 4.5 g of the subtitled compound as an oil.

reactant | 2-Phenyl-phenylmethyl amine | 0.0164 mol, 3 g | C1(=CC=CC=C1)C1=C(C=CC=C1)CN | C13H13N
reactant | water | O | H2O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-ethyl-1,5,6,7-tetrahydro-1-(2-phenyl-phenylmethyl)-4H-indol-4-one | 4.5 g | C(C)C=1N(C=2CCCC(C2C1)=O)CC1=C(C=CC=C1)C1=CC=CC=C1 | C23H23NO
